data/mechanism_extracts/OrgLett/10.1021_acs.orglett.2c02976_sup_1.json
{"doi": "10.1021_acs.orglett.2c02976_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Nickel-catalyzed electrochemical three-component 1,2-dicarbofunctionalization of styrenes with aryl iodides and 3-iodooxetane via a radical pathway", "mechanism_family": ["radical_cathodic", "electrocatalysis_inner_sphere", "sacrificial_anode"], "electrochemical_role": "Cathodic reduction generates Ni(0)Ln from Ni(II); the iron anode is sacrificially oxidized (Fe -> Fe(n+) + ne-); alkyl iodide (3-iodooxetane) undergoes SET to form alkyl radical that adds to styrene", "key_intermediates": [{"name": "Ni(0)Ln (A)", "smiles": null, "role": "reactive"}, {"name": "Ar(1)-Ni(II)-I (B), oxidative addition complex", "smiles": null, "role": "reactive"}, {"name": "Alkyl radical from 3-iodooxetane (C)", "smiles": "[CH2]1COC1", "role": "reactive"}, {"name": "Benzylic radical after styrene addition (D)", "smiles": null, "role": "reactive"}, {"name": "Ar(1)-Ni(III)(I)(CH(Ar2)CH2-alkyl) (E)", "smiles": null, "role": "transient"}, {"name": "Ni(I)-I (F), post-reductive-elimination species", "smiles": null, "role": "transient"}, {"name": "Ni(II)-I (G) reduced back to Ni(0) at cathode", "smiles": null, "role": "resting_state"}, {"name": "TEMPO-oxetane adduct (7)", "smiles": "CC1(C)CCCC(C)(C)N1OC1COC1", "role": "off_pathway"}], "electron_flow": "Cathode reduces Ni(II) to Ni(0), which oxidatively adds ArI to give Ar-Ni(II)-I; this Ni species reduces the alkyl iodide via SET to release an alkyl radical that adds to styrene, generating a benzylic radical that recombines with Ar-Ni(II) to give a Ni(III) intermediate undergoing reductive elimination; the iron anode is sacrificially oxidized to balance charge.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Target product 4a fully suppressed (0%); TEMPO-oxetanyl adduct 7 isolated in 13% with full system and 31% with only 3a, confirming alkyl radical formation and suggesting Ni(I) generation by disproportionation"}, {"name": "DMPO", "smiles": "CC1(C)CC=[N+]([O-])C1", "purpose": "radical_trap", "observation": "Used as spin trap for EPR detection of radical intermediates from 1a and 2a under electrolysis"}], "evidence_types_used": ["intermediate_trap_TEMPO", "EPR", "stoichiometric_intermediate", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Stoichiometric reaction without electric current using Ni(cod)2 still afforded product 4a (10%) and isomer 4a' (40%), supporting feasibility of the Ni(0)/Ni(II)/Ni(III) cycle independent of continuous current. TEMPO trapping with only 3a indicates Ni(I) may form via disproportionation pathway alongside the main cycle."}
